US06914060B2
Bromoacetaldehyde dimethyl acetal (2.57 g, 13.1 mmol), 48% hydrobromic acid (1.06 g, 13.1 mmol) and water (1.5 ml) were heated at 95° C. for 1.5 h. The mixture was allowed to cool to ambient temperature, diluted with propan-2-ol (20 ml) then treated with sodium hydrogen-carbonate (1.46 g, 17.4 mmol) added in portions over 5 min. The mixture was filtered and the filtrate was added to 6-amino-4-methyl-3-methylsulfanyl-4H-[1,2,4]triazin-5-one (1.50 g, 8.71 mmol). The resulting suspension was heated at 95° C. for 18 h. The mixture was allowed to cool to ambient temperature, diluted with methanol (100 ml) and evaporated onto silica. The product was purified by flash column chromatography on silica eluting with dichloromethane (+0.1% 0.880 ammonia) on a gradient of methanol (3-6%). Collecting appropriate fractions gave 3-methyl-2-methylsulfanyl-3H-imidazo[2,1-f][1,2,4]triazin-4-one (0.81 g, 47%) as a pale yellow solid: δH (400 MHz, CDCl3) 2.61 (3H, s), 3.58 (3H, s), 7.49 (1H, d, J1), 7.52 (1H, d, J1).

reactant | Bromoacetaldehyde dimethyl acetal | 13.1 mmol, 2.57 g | COC(CBr)OC | C4H9BrO2
reactant | hydrobromic acid | 13.1 mmol, 1.06 g | Br | BrH
reactant | sodium hydrogen-carbonate | 17.4 mmol, 1.46 g | C(O)([O-])=O.[Na+]
reactant | 6-amino-4-methyl-3-methylsulfanyl-4H-[1,2,4]triazin-5-one | 8.71 mmol, 1.50 g | NC=1C(N(C(=NN1)SC)C)=O | C5H8N4OS
solvent | propan-2-ol | 20 ml | CC(C)O | C3H8O
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 1.5 ml | O | H2O
product | 3-methyl-2-methylsulfanyl-3H-imidazo[2,1-f][1,2,4]triazin-4-one | 0.81 g, 47% | CN1C(=NN2C(C1=O)=NC=C2)SC | C7H8N4OS
